US08937150B2
4,4′-(1-(4-fluorophenyl)pyrrolidine-2,5-diyl)dibenzene-1,2-diamine
4,4′-(1-(4-Fluorophenyl)pyrrolidine-2,5-diyl)bis(2-nitroaniline) (0.218 g, 0.50 mmol) was dissolved in DMF (5 mL) then platinum oxide (0.226 g, 0.99 mmol) was added as a THF slurry. The flask was evacuated and purged with nitrogen twice, then evacuated and opened to hydrogen balloon. The mixture was stirred at room temperature for 20 hours. The solution was taken on to the next step without purification.

reactant | 4,4′-(1-(4-Fluorophenyl)pyrrolidine-2,5-diyl)bis(2-nitroaniline) | 0.50 mmol, 0.218 g | FC1=CC=C(C=C1)N1C(CCC1C1=CC(=C(N)C=C1)[N+](=O)[O-])C1=CC(=C(N)C=C1)[N+](=O)[O-] | C22H20FN5O4
reactant | THF | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | platinum oxide | 0.99 mmol, 0.226 g | [Pt]=O
product | 4,4′-(1-(4-fluorophenyl)pyrrolidine-2,5-diyl)dibenzene-1,2-diamine | FC1=CC=C(C=C1)N1C(CCC1C=1C=C(C(=CC1)N)N)C=1C=C(C(=CC1)N)N | C22H24FN5
